US04224330
To a stirred solution of 3-benzylpyrrolylmethyl alcohol (0.99 mmol) and triethylamine (0.14 g, 1.38 mmol) in ether (about15 ml), under nitrogen, is added a solution of the acid chloride of 2-(5-chloro-2-benzothienyl)-3-methylbutanoic acid (1.5 mmol) in either. The mixture is stirred for about 60 minutes and then quenched with saturated aqueous NaHCO3. The ether phase is washed with aqueous NaHCO3, water and brine, dried over sodium sulfate and solvent evaporated to give 3-benzylpyrrolylmethyl 2-(5-chloro-2-benzothienyl)-3-methylbutanoate.

reactant | 3-benzylpyrrolylmethyl alcohol | 0.99 mmol | C(C1=CC=CC=C1)C1=C(NC=C1)CO | C12H13NO
reactant | triethylamine | 1.38 mmol, 0.14 g | C(C)N(CC)CC | C6H15N
reactant | 2-(5-chloro-2-benzothienyl)-3-methylbutanoic acid | 1.5 mmol | ClC=1C=CC2=C(C=C(S2)C(C(=O)O)C(C)C)C1 | C13H13ClO2S
solvent | ether | CCOCC | C4H10O
product | 3-benzylpyrrolylmethyl 2-(5-chloro-2-benzothienyl)-3-methylbutanoate | ClC=1C=CC2=C(C=C(S2)C(C(=O)OCC=2NC=CC2CC2=CC=CC=C2)C(C)C)C1 | C25H24ClNO2S
